US05420270
6-[(8-chlorodibenz[b,f][1,4]oxazepin-10(11H)-yl)carbonyl]-N-(4-pyridinylmethyl )-2-pyridinecarboxamide, hydrochloride
A solution of 8-chloro-dibenz[b,f][1,4]oxazepine (0.77 g), 2,6-pyridine-dicarbonyl chloride (0.68 g) and 4-methylmorpholine (0.367 mL) in CHCl3 (33 mL) was allowed to stand at ambient temperature for 16 hours. To this solution was added 4-(aminomethyl)pyridine (0.34 mL) and the mixture was allowed to stand at ambient temperature for 16 hours. The mixture was concentrated and the residue was extracted with ethyl acetate and saturated NaHCO3. The organic extract was concentrated and the residue chromatographed over silica gel using 50% ethyl acetate in hexane. Appropriate fractions were pooled and concentrated to give the free base of the title compound as a white solid. The HCl salt of the free base was made as described in Example 3.

reactant | 8-chloro-dibenz[b,f][1,4]oxazepine | 0.77 g | ClC1=CC2=C(OC3=C(C=N2)C=CC=C3)C=C1 | C13H8ClNO
reactant | 2,6-pyridine-dicarbonyl chloride | 0.68 g | N1=C(C=CC=C1C(=O)Cl)C(=O)Cl | C7H3Cl2NO2
reactant | 4-methylmorpholine | 0.367 mL | CN1CCOCC1 | C5H11NO
reactant | 4-(aminomethyl)pyridine | 0.34 mL | NCC1=CC=NC=C1 | C6H8N2
solvent | CHCl3 | 33 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-[(8-chlorodibenz[b,f][1,4]oxazepin-10(11H)-yl)carbonyl]-N-(4-pyridinylmethyl )-2-pyridinecarboxamide, hydrochloride | Cl.ClC1=CC2=C(OC3=C(CN2C(=O)C2=CC=CC(=N2)C(=O)NCC2=CC=NC=C2)C=CC=C3)C=C1 | InChI=1S/C26H19ClN4O3.ClH/c27-19-8-9-24-22(14-19)31(16-18-4-1-2-7-23(18)34-24)26(33)21-6-3-5-20(30-21)25(32)29-15-17-10-12-28-13-11-17;/h1-14H,15-16H2,(H,29,32);1H
